US07981874B2
3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane-9-carboxylate 3-oxide (975 mg, 3.19 mmol) was combined with 4.0 M HCl in dioxane (25 mL) and stirred at room temperature for 1 h. The resulting suspension was evaporated to a white solid that was slurried in EtOAc and filtered to give 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride as a colorless solid. 1H NMR (DMSO-d6, 600 MHz) δ 8.99 (bs, 2H), 4.21-4.11 (m, 4H), 3.12-3.07 (m, 2H), 3.04-2.99 (m, 2H), 1.82-1.78 (m, 2H), 1.59-1.56 (m, 2H), 1.55 (d, J=17.0 Hz, 3H).

reactant | 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane-9-carboxylate 3-oxide | 3.19 mmol, 975 mg | CP1(OCC2(CO1)CCN(CC2)C(=O)[O-])=O
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride | Cl.CP1(OCC2(CO1)CCNCC2)=O | InChI=1S/C8H16NO3P.ClH/c1-13(10)11-6-8(7-12-13)2-4-9-5-3-8;/h9H,2-7H2,1H3;1H
